US07304057B2
(3R)-thiomorpholine-3-carboxylic acid methyl ester
36.3 g of 2-amino-3-(2-chloro-ethylsulfanyl)-propionic acid methyl ester hydrochloride was dissolved in 700 mL of dry DMF in a 100 ml three neck flask and 125 mL of TEA was added dropwise into the above solution. And then the mixture was stirred for 8 hours at 90-95° C. The white solid was removed and the mother liquid was concentrated to obtain a red oil (10.9 g). The obtained red oil was dissolved in ethyl acetate and washed with saturated aqueous sodium chloride solution (50, 40, 40 ml) and then with water (40 ml) and dried over MgSO4. The drying agent and ethyl acetate were removed to obtain a brown oil (10.9 g). Yield 43.6%.

reactant | 2-amino-3-(2-chloro-ethylsulfanyl)-propionic acid methyl ester hydrochloride | 36.3 g | Cl.COC(C(CSCCCl)N)=O
solvent | DMF | 700 mL | CN(C)C=O | C3H7NO
product | (3R)-thiomorpholine-3-carboxylic acid methyl ester | 10.9 g | COC(=O)[C@H]1NCCSC1 | C6H11NO2S
